US05721234
Preparation of 8-amino-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalen-2-ol
A mixture of acetic acid 8-acetylamino-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalen-2-yl ester (2 g, 5.4 mmol), acetic acid (15 mL) and 6N HCl (30 mL) was stirred at 90° C. for 18 h. The solvent was removed by rotoevaporation to give the product (1.6 g) as an orange solid in quantitative yield.

reactant | acetic acid 8-acetylamino-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalen-2-yl ester | 5.4 mmol, 2 g | C(C)(=O)NC=1C(=CC(=C2CCC(CC12)OC(C)=O)Br)[N+](=O)[O-] | C14H15BrN2O5
reactant | HCl | 6N, 30 mL | Cl | ClH
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 8-amino-5-bromo-7-nitro-1,2,3,4-tetrahydronaphthalen-2-ol | 1.6 g, quantitative yield | NC=1C(=CC(=C2CCC(CC12)O)Br)[N+](=O)[O-] | C10H11BrN2O3
